US04617394
8-Amino-2-chloro-6-methoxy-4-methyl-5-(3-trifluoromethylphenoxy)quinoline (VI):
A suspension of 2-chloro-6-methoxy-4-methyl-8-phthalimido-5-(3-trifluoromethylphenoxy)quinoline (23.2 g, 45.2 mmol) in ethanol (900 mL) was treated with excess hydrazine hydrate (75%, 16.75 mL) and the mixture was refluxed with mechanical stirring for 3 hours. After cooling, the solids were collected and washed with CH2Cl2. The combined filtrate and washings were evaporated in vacuo to a small volume and dissolved in CH2Cl2 ( 500 mL). The solution was extracted with 20% KOH (3×200 mL), and with brine, dried (K2CO3) and evaporated in vacuo to an amber gum. Recrystallization from cyclohexane-ligroin (5:2, 500 mL) with charcoaling gave 15.4 g (89%) of 1st crop title compound, mp 133°-135° C. Further recrystallization did not change the melting point.

reactant | 2-chloro-6-methoxy-4-methyl-8-phthalimido-5-(3-trifluoromethylphenoxy)quinoline | 45.2 mmol, 23.2 g | ClC1=NC2=C(C=C(C(=C2C(=C1)C)OC1=CC(=CC=C1)C(F)(F)F)OC)N1C(C=2C(C1=O)=CC=CC2)=O | C26H16ClF3N2O4
reactant | hydrazine hydrate | 16.75 mL | O.NN
solvent | ethanol | 900 mL | C(C)O | C2H6O
product | 8-Amino-2-chloro-6-methoxy-4-methyl-5-(3-trifluoromethylphenoxy)quinoline | NC=1C=C(C(=C2C(=CC(=NC12)Cl)C)OC1=CC(=CC=C1)C(F)(F)F)OC | C18H14ClF3N2O2
